US07268133B2
Preparation of Intermediate 2,5,7-Triazaspiro[3.4]octan-8-one, Hydrochloride Salt (I-3A-50d):
To a solution of 2-benzhydryl-5-benzyl-2,5,7-triazaspiro[3.4]oct-6-en-8-one (I-3A-50c; 1.83 g, 4.80 mmol) in methanol/methylene chloride was added excess 1 M HCl in diethyl ether (10 ml). After stirring for 10 minutes, the solvent was removed, in vacuo, and the resultant hydrochloride salt was dissolved in methanol (50 ml). After the addition of 20% Pd(OH)2 on carbon (50% water; 1.1 g), the mixture was placed on a Parr® shaker and then reduced (50 psi H2) at room temperature for 22 hours. The reaction was filtered through a 0.45 μM disk, and then concentrated, in vacuo, to give a gummy solid. This material was triturated from methanol to afford I-3A-50d (450 mg, 47%) as a tan solid: +APcl MS (M+1) 127.9; 1H NMR (400 MHz, CD3OD) δ 4.51 (s, 2H), 4.41-4.33 (m, 4H).

reactant | 2-benzhydryl-5-benzyl-2,5,7-triazaspiro[3.4]oct-6-en-8-one | 4.80 mmol, 1.83 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC2(C1)N(C=NC2=O)CC2=CC=CC=C2 | C25H23N3O
reactant | HCl | 1 M | Cl | ClH
solvent | methanol methylene chloride | CO.C(Cl)Cl
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
product | 2,5,7-Triazaspiro[3.4]octan-8-one, Hydrochloride Salt | Cl.C1NCC12NCNC2=O | InChI=1S/C5H9N3O.ClH/c9-4-5(1-6-2-5)8-3-7-4;/h6,8H,1-3H2,(H,7,9);1H
